US06737425B1
62-1) 4-Fluorophenoxy Glycidyl Ether
4-Fluorophenol (3.0 g) was dissolved in dimethylformamide (50 ml), then sodium hydride (1.28 g, 50%) was added thereto, and the mixture was stirred for 45 minutes in an ice bath. Epibromohydrin (2.3 ml) was added to the reaction mixture, and the mixture was stirred for 3 hours in the ice bath. The organic layer was partitioned by adding water and diethyl ether, and the resulting organic layer was washed with water and brine, dried, and evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the free compound (3.4 g, 75%) of the title compound as a colorless oil.

reactant | 4-Fluorophenol | 3.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium hydride | 1.28 g | [H-].[Na+]
reactant | Epibromohydrin | 2.3 ml | C(Br)C1CO1 | C3H5BrO
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Fluorophenoxy Glycidyl Ether | 3.4 g, 75% | C(C1CO1)OOC1=CC=C(C=C1)F | C9H9FO3
